US06239131B1
Preparation of 1-[1-(2-toluoylmethyl)-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methylphenyl)urea
1-(2-Toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (411 mg) was dissolved in tetrahydrofuran. m-Tolyl isocyanate (146 mg) was added thereto, and the resultant mixture was stirred at room temperature for 30 minutes. The solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1), to thereby obtain 300 mg of the title compound.

reactant | 1-(2-Toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 411 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)N)=O)C | C23H27N3O3
reactant | m-Tolyl isocyanate | 146 mg | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[1-(2-toluoylmethyl)-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methylphenyl)urea | 300 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)NC(=O)NC2=CC(=CC=C2)C)=O)C | C31H34N4O4
